US05198560
Preparation X. Preparation of 2-quinoxalyl isocyanate
Diphenylphosphoryl azide (1.23 mL) was added to a solution of triethylamine (800 ul) and 2-quinoxaline carboxylic acid 1 g (5.74 mmol) stirring in 10 mL of dry dimethylformamide in an icewater cooling bath (2°). The reaction was stirred for 2.33 h during which time the reaction was allowed to warm to 25°. The reaction was poured into ice water and extracted three times with diethyl ether. The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and then concentrated in vacuo. The crude azide was dissolved in 15 mL of benzene and heated at reflux for 1.5 h. The solvent was removed in vacuo to provide the desired solid isocyanate. FT IR indicated a strong isocyanate absorption.

reactant | Diphenylphosphoryl azide | 1.23 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 800 ul | C(C)N(CC)CC | C6H15N
reactant | 2-quinoxaline carboxylic acid | 5.74 mmol, 1 g | N1=C(C=NC2=CC=CC=C12)C(=O)O | C9H6N2O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-quinoxalyl isocyanate | N1=C(C=NC2=CC=CC=C12)N=C=O | C9H5N3O
